US07923451B2
4-Isopropoxymethyl-6-(4-methyl-piperazin-1-yl)-pyrimidin-2-ylamine
To a solution of 2-amino-6-isopropoxymethyl-3H-pyrimidin-4-one (0.050 g, 0.27 mmol) in acetonitrile (2.37 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.157 g, 0.355 mmol), DBU (0.82 mL, 0.55 mmol), and 1-methyl-piperazine (0.091 ml, 0.82 mmol). The reaction mixture was stirred at rt for 12 h, then at 60° C. for 3 h. The mixture was concentrated and the resultant residue was purified (2 M NH3 in MeOH/CH2Cl2) to yield a white solid (10 mg, 14%). MS (ESI): mass calcd. for C13H23N5O, 265.4; m/z found, 266.3 [M+H]+. 1H NMR (MeOD): 6.55 (s, 1H), 4.49 (s, 2H), 3.78 (quintet, J=6.1, 1H), 3.70-3.00 (m, 8H), 2.95 (s, 3H), 1.25 (d, J=6.1, 6H).

reactant | 2-amino-6-isopropoxymethyl-3H-pyrimidin-4-one | 0.27 mmol, 0.050 g | NC1=NC(=CC(N1)=O)COC(C)C | C8H13N3O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.355 mmol, 0.157 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DBU | 0.55 mmol, 0.82 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-methyl-piperazine | 0.82 mmol, 0.091 ml | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 2.37 mL | C(C)#N | C2H3N
product | 4-Isopropoxymethyl-6-(4-methyl-piperazin-1-yl)-pyrimidin-2-ylamine | 10 mg, 14% | C(C)(C)OCC1=NC(=NC(=C1)N1CCN(CC1)C)N | C13H23N5O
